data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH+:21](CCC1=CC=CC=C1)COC.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].COC[NH:21]CCC1=CC=CC=C1.CO.[Cl-] 10=20;20,21=21
CCO[I:11]1(C2=C(C=CC=C2)C(=O)O1)([O:10][C:20](=[OH+:21])C)OC(=O)C>>CCO[I+:11]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.C[C:20](=[O:10])[OH:21] 10,11=10,20;20,21=21
[H:20][P+:21](Br)(Br)Br.[OH2:10]>>[H:20][OH2+:10].[P:21](Br)(Br)Br 10=20;20,21=21
C1=CC(=CC(=C1)C#N)OCC[CH2:20][Cl:21].C1=NC(=NN1)[S-:10].CC[NH+](CC)CC.CCO>>C1=CC(=CC(=C1)C#N)OCC[CH2:20][S:10]C2=NNC=N2.[Cl-:21].CC[NH+](CC)CC.CCO 10=20;20,21=21
CC(=O)CC[C:20](C)([NH:10]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=NC=C1>>C[C:20](=[NH+:10]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)CCC(=O)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=NC=C1 10=20;20,21=21
C1CO[C:20](=[O:21])O1.[OH-:10]>>C1CO[C:20](O1)([OH:10])[O-:21] 10=20;20,21=21
[B-]1(C2CCCC1CCC2)(O)[O:10]C(CCC3CCCCC3=O)C(=C=C)[Si](C)(C)C.[Na+:20]>>[B-]1(C2CCCC1CCC2)(O)[O+:10](C(CCC3CCCCC3=O)C(=C=C)[Si](C)(C)C)[Na:20] 10=20,
CC1=C(S[C:21](=[N+]1CC2=CC=CC=C2)[C:20](CCC(=O)COC(=O)C)(C3=CC=CC=C3)[O-:10])CCO.CC[NH+](CC)CC.[Cl-]>>CC1=C(S[C-:21]=[N+]1CC2=CC=CC=C2)CCO.CC(=O)OCC(=O)CC[C:20](=[O:10])C1=CC=CC=C1.CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC(C)O[P:20](=[O:21])(OC(C)C)F.CNC(C[O-:10])C(=O)OC>>CC(C)O[P:20]([O-:21])([O:10]CC(C(=O)OC)NC)(OC(C)C)F 10=20;20,21=21
CC(C)[O:10][CH:20](CCC1=CC=CC=C1)[O+:21]([Si](C)(C)C)[Si](C)(C)C.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C)[O+:10]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)[O:21][Si](C)(C)C.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[Li:11][C:10](C)(C)C.C1CCC(=CC1)[I:20]>>[Li+:11].C[C:10](C)(C)[I-:20]C1=CCCCC1 10,11=10,20
[H:20][C:21](CCCC1(C=CC(=O)C=C1)CC(=C)Br)([C:22]2=[N+:23](N=C3N2CCC3)C4=C(C(=C(C(=C4F)F)F)F)F)O.CC[N:10](CC)CC.[B-](F)(F)(F)F>>[H:20][N+:10](CC)(CC)CC.C=C(CC1(C=CC(=O)C=C1)CCC[C:21](=[C:22]2N3CCCC3=N[N:23]2C4=C(C(=C(C(=C4F)F)F)F)F)O)Br.[B-](F)(F)(F)F 10=20;22,23=23;20,21=21,22
[H:20][OH+:21][K].C1CC2[CH:10](C1)[C:11]2(O)[O-:12].[Cl-].[K+]>>[H:20][CH:10]1CCCC1[C:11](=[O:12])O.[OH:21][K].[Cl-].[K+] 10,11=10,20;20,21=21;12=11
C[N+:21](=[CH2:20])C.[F-:10]>>C[N:21](C)[CH2:20][F:10] 10=20;20,21=21
C[C:11](=[CH2:10])[O-:12].[CH2:20]=[CH:21][CH:22]=[O:23]>>C[C:11](=[O:12])[CH2:10][CH2:20][CH:21]=[CH:22][O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CCO[C:20](C)([OH2+:21])[OH:10]>>CCO[C:20](=[OH+:10])C.[OH2:21] 10=20;20,21=21
[H:20][C:21]1([C+:22](C=CO1)Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CO[C:21](=[C:22]1Br)S(=O)(=O)O 10=20;20,21=21,22
[Li:11][CH:10]=C.C1C[C:20](=[O:21])C=C1>>[Li+:11].C=[CH:10][C:20]1(CCC=C1)[O-:21] 10,11=10,20;20,21=21
[H:20][O+:21](C(C)([O-])OC(=O)C)NC(=O)C1=CN=C(N(C1=O)CC(OC)OC)C2=CC=CC=C2.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(=O)OC(C)([O-])[O:21]NC(=O)C1=CN=C(N(C1=O)CC(OC)OC)C2=CC=CC=C2 10=20;20,21=21
[H:20][CH:21]1C2CCCC(N2C)C[C:22]1=[N+:23]3CCCC3.C1CC[NH:10]C1.O[Ti-](Cl)(Cl)(Cl)Cl>>[H:20][NH+:10]1CCCC1.CN1C2CCCC1[CH:21]=[C:22](C2)[N:23]3CCCC3.O[Ti-](Cl)(Cl)(Cl)Cl 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(C)CCC1(CC(C=CC1=O)(C)C)C.[OH2:10]>>[H:20][OH2+:10].CC(=[O:21])CCC1(CC(C=CC1=O)(C)C)C 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)N(C)C)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].CN(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)N=NC2=CC=CC=C2 10=20;20,21=21,22;22,23=23,24
[H:20][C:21](C1=CC=C(C=C1)F)([C:22]2=[N+:23](C(=C(S2)CCO)C)CC3=CC=CC=C3)O.CC[N:10](CC)CC.CC(=O)OCC(=O)C=C.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](C2=CC=C(C=C2)F)O)[N:23]1CC3=CC=CC=C3)CCO.CC(=O)OCC(=O)C=C.[Cl-] 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2=C(C=C(C=C2)[N+](=O)[O-])C.C(=[O:10])O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=C(C=CC(=C1)[N+](=O)[O-])C[CH2:20][O+:10]=CO 10=20;20,21=21
C1=CC=C(C=C1)C[NH:10][CH:20](C=CC2=CC=CC=C2)[OH:21].CO.C1=CC=C(C=C1)CN>>C1=CC=C(C=C1)C[NH+:10]=[CH:20]C=CC2=CC=CC=C2.[OH-:21].CO.C1=CC=C(C=C1)CN 10=20;20,21=21
C[CH+:20]C.CC(=O)C1=C[CH:10]=[CH:11]O1>>C[CH:20](C)[CH:10]1C=C(O[CH+:11]1)C(=O)C 10,11=10,20
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)OC)Br.[Br-:10]>>[H:20][Br:10].CO[C:24]1=[CH:23][CH:22]=[C:21](C2=CC=CC=C21)Br 10=20;20,21=21,22;22,23=23,24
CC(CC=CCO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)OC[O:10]CCOC.Cl[Ti:20](Cl)(Cl)Cl>>CC(CC=CCO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)OC[O+:10](CCOC)[Ti-:20](Cl)(Cl)(Cl)Cl 10=20,
[CH:20]([NH2:10])(O)[I:21].[Cl-]>>[CH:20](=[NH2+:10])O.[I-:21].[Cl-] 10=20;20,21=21
CC1(CCCC2(C1C(C=C3C2(C(OC3)[OH+:11][Si-:10](C)(C)(C(C)(C)C)F)O)O[Si-](C)(C)(C(C)(C)C)F)C)C.CC[N+](CC)(CC)CC.O.[OH-]>>CC1(CCCC2(C1C(C=C3C2(C(OC3)[OH:11])O)O[Si-](C)(C)(C(C)(C)C)F)C)C.CC(C)(C)[Si:10](C)(C)F.CC[N+](CC)(CC)CC.O.[OH-] 10,11=11
CC[C+:20](C)C(C)C.CC(C)(C)[OH:10]>>CC[C:20](C)(C(C)C)[OH+:10]C(C)(C)C 10=20,
[H:20][O:21]S(=O)(=O)O.CC(C)(C1=CC=CC=C1)O[OH:10].O>>[H:20][OH+:10]OC(C)(C)C1=CC=CC=C1.OS(=O)(=O)[O-:21].O 10=20;20,21=21
C[S+:20](C)Cl.[OH-:10]>>C[S:20](C)([OH:10])Cl 10=20,
